US06277871B1
5-(4-chlorophenyl)-2-hydroxymethylfuran
The product from Example 11A (1.012 g, 5.72 mmol) in 10 mL of DMF was treated sequentially with PdCl2 (PPh3)2 (401 mg, 0.57 mmol), 4-chlorophenylboronic acid (1.78 g, 11.4 mmol), and Cs2CO3 (3.71 g, 11.4 mmol). The reaction was heated at 80° C. under N2 for 12 hours. The reaction mixture was taken up in ethyl acetate and washed with water (3×) and brine (3×), dried (Na2SO4), filtered, and evaporated to a brown oil that was purified by flash chromatography (50% ethyl acetate/hexanes) to provide 345 mg (35%) the title compound as an oil.

reactant | 4-chlorophenylboronic acid | 11.4 mmol, 1.78 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Cs2CO3 | 11.4 mmol, 3.71 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(4-chlorophenyl)-2-hydroxymethylfuran | 345 mg, 35% | ClC1=CC=C(C=C1)C1=CC=C(O1)CO | C11H9ClO2
